US08957068B2
To dihydro-2H-pyran-4(3H)-one (1001 mg, 10 mmol) and triethylamine (0.279 mL, 2.00 mmol) was slowly added TMS-CN (1190 mg, 12.00 mmol) [Caution: exothermic reaction]. After stirring for 1 hour, the mixture was concentrated under reduced pressure. The residue, dissolved in diethyl ether (10 mL), was added dropwise to phenylmagnesium bromide (3M solution in diethyl ether, 4.33 mL, 13.00 mmol). Additional ˜5 mL of diethyl ether was added and the suspension was stirred for ˜4 hour. To the reaction mixture was added very slowly MeOH (3.0 mL), followed by the careful and slow additions of NaBH4 (454 mg, 12.00 mmol) and MeOH (12 mL) in portions (gas development observed). The reaction mixture was stirred overnight and water (˜6 mL) was added carefully, followed by 10% aqueous HCl solution (˜20 mL). The mixture was vigrously stirred for 4 hour and diethyl ether was added. The separated organic layer was extracted with 10% aqueous HCl solution (1× ˜20 mL). The combined aqueous layers were washed with diethylether (2×). The acidic layers were made basic by the addition of 6N aqueous NaOH solution. The milky white mixture was extracted with DCM (1×), ethyl acetate/THF (1:1; 1×) and ethyl acetate (2×). The organic layers (DCM and ethyl acetate solutions independently) were washed with saturated aqueous NaHCO3 solution, dried over Na2SO4, filtered off and concentrated under reduced pressure providing crude 4-(amino(phenyl)methyl)tetrahydro-2H-pyran-4-ol, which was directly used in the next reaction without further purification.

reactant | dihydro-2H-pyran-4(3H)-one | 10 mmol, 1001 mg | O1CCC(CC1)=O | C5H8O2
reactant | triethylamine | 2.00 mmol, 0.279 mL | C(C)N(CC)CC | C6H15N
reactant | TMS-CN | 12.00 mmol, 1190 mg | [Si](C)(C)(C)C#N | C4H9NSi
reactant | phenylmagnesium bromide | 13.00 mmol, 3M, 4.33 mL | C1(=CC=CC=C1)[Mg]Br
reactant | NaBH4 | 12.00 mmol, 454 mg | [BH4-].[Na+]
reactant | HCl | ˜20 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | ˜6 mL | O | H2O
solvent | MeOH | 12 mL | CO | CH4O
solvent | MeOH | 3.0 mL | CO | CH4O
solvent | diethyl ether | ˜5 mL | C(C)OCC | C4H10O
product | 4-(amino(phenyl)methyl)tetrahydro-2H-pyran-4-ol | NC(C1(CCOCC1)O)C1=CC=CC=C1 | C12H17NO2
